US09255100B2
6,8-dibromoimidazo[1,2-b]pyridazine
A mixture of 5.0 (14.0 mmol) 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine which was prepared according to intermediate example 1c, 30 mL of hydrogen bromide solution in acetic acid (33%) was stirred at 120° C. for 1 hour under microwave irradiation. The mixture was poured into water and extracted with dichloromethane. The organic phase was washed with sodium thiosulfate and sodium hydrogencarbonate solution and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 3.0 g (78%) of the title compound.

reactant | 8-bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine | BrC=1C=2N(N=C(C1)Cl)C(=CN2)I | C6H2BrClIN3
reactant | hydrogen bromide | 30 mL | Br | BrH
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,8-dibromoimidazo[1,2-b]pyridazine | 3.0 g, 78% | BrC=1C=C(C=2N(N1)C=CN2)Br | C6H3Br2N3
